US07338958B2
Production of (RS)-S-[4-({5-bromo-4-[(1R,2R)-2-hydroxy-1-methylpropoxy]pyrimidin-2-yl}amino)-2-methoxyphenyl]-S-methyl sulfoximide
220 mg (1.1 mmol) of (RS)-S-(4-amino-2-methoxyphenyl)-S-methyl sulfoximide and 280 mg (1.0 mmol) of (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)oxy]-butan-2-ol in 10 ml of acetonitrile are mixed with 0.28 ml of a 4N solution of HCl in dioxane and stirred under reflux overnight. It is mixed with 1 ml of a solution of n-butanol/methanol (9:1) and stirred under reflux for another 5 days. The batch is concentrated by evaporation, and the residue is purified by chromatography (DCM/ethanol 8:2). 36 mg (0.1 mmol, corresponding to 8% of theory) of the product is obtained.

reactant | (RS)-S-(4-amino-2-methoxyphenyl)-S-methyl sulfoximide | 1.1 mmol, 220 mg | NC1=CC(=C(C=C1)S(=O)(=N)C)OC | C8H12N2O2S
reactant | (2R,3R)-3-[(5-bromo-2-chloropyrimidin-4-yl)oxy]-butan-2-ol | 1.0 mmol, 280 mg | BrC=1C(=NC(=NC1)Cl)O[C@@H]([C@@H](C)O)C | C8H10BrClN2O2
reactant | HCl | Cl | ClH
reactant | n-butanol methanol | C(CCC)O.CO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (RS)-S-[4-({5-bromo-4-[(1R,2R)-2-hydroxy-1-methylpropoxy]pyrimidin-2-yl}amino)-2-methoxyphenyl]-S-methyl sulfoximide | BrC=1C(=NC(=NC1)NC1=CC(=C(C=C1)S(=O)(=N)C)OC)O[C@@H]([C@@H](C)O)C | C16H21BrN4O4S
